US07279467B2
37.1) 2-(bromomethyl)-5-methoxy-1,3-benzothiazole
2.58 g (14.5 mmol; 1.3 eq.) of N-bromosuccinimide and a spatula tip's worth of aza-bis-isobutyronitrile are added to 2 g (11.16 mmol) of 2-methyl-5-methoxy-1,3-benzothiazole in solution in 25 ml of anhydrous carbon tetrachloride. The reaction mixture is heated under reflux and under irradiation for 6 hours, with a spatula tip's worth of aza-bis-isobutyronitrile added every 2 hours. After returning to ambient temperature, the insoluble part formed is filtered, the solvent is evaporated off under reduced pressure and the residue is purified by chromatography on a silica column (eluent: ethyl acetate/heptane 1/4). The expected product is obtained in the form of a white solid.

reactant | N-bromosuccinimide | 14.5 mmol, 2.58 g, 1.3 eq. | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2-methyl-5-methoxy-1,3-benzothiazole | 11.16 mmol, 2 g | CC=1SC2=C(N1)C=C(C=C2)OC | C9H9NOS
solvent | carbon tetrachloride | 25 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-(bromomethyl)-5-methoxy-1,3-benzothiazole | BrCC=1SC2=C(N1)C=C(C=C2)OC | C9H8BrNOS
